US05814651
N-(2-Methylphenyl)sulphonyl 4'-methoxy-3'-(1-methyl-4-phenylbutoxy)-(±)[1,1'-biphenyl]-4-carboxamide,
To a solution of acid 4'-methoxy-3'-(1-methyl-4-phenylbutoxy)-(±)[1,1'-biphenyl]-4-carboxylic acid, (0.257 g, 0.658 mmoles) in 10 ml of anhydrous methylene chloride under hydrogen atmosphere was added dimethylamino pyridine (88.46 mg, 0.728 mmoles); o-Toluenesulfonamide (0.122 g, 0.712 mmoles) and dicyclohexylcarbodiimide (0.124 g, 0.6 mmoles) the reaction mixture allowed to stir for 50 hours. The solvent was evaporated and the resulting solid triturated with methylene chloride:ether (~1:1) which lead to precipitation of by-product DCU which was filtered. Concentration of the mother liquor followed by 3 g additional triturations with ethyl acetate/ether (~1:1) caused additional deposit of white solid which was filtered. The clear filtrate was concentrated and purified on a silica gel column using methylene chloride/methanol as eluant (95:5). Concentration of fractions containing desired products gave a total of 0.37 g of white foamy solid. Recrystallization from ethyl acetate/hexane gave 0.208 grams of white solid. M.P.: 97°-100° C.

reactant | 4'-methoxy-3'-(1-methyl-4-phenylbutoxy)-(±)[1,1'-biphenyl]-4-carboxylic acid | 0.658 mmoles, 0.257 g | COC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)O)OC(CCCC1=CC=CC=C1)C | C25H26O4
reactant | dimethylamino pyridine | 0.728 mmoles, 88.46 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | o-Toluenesulfonamide | 0.712 mmoles, 0.122 g | C=1(C(=CC=CC1)S(=O)(=O)N)C | C7H9NO2S
reactant | dicyclohexylcarbodiimide | 0.6 mmoles, 0.124 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Methylphenyl)sulphonyl 4'-methoxy-3'-(1-methyl-4-phenylbutoxy)-(±)[1,1'-biphenyl]-4-carboxamide | 0.37 g | CC1=C(C=CC=C1)S(=O)(=O)NC(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)OC)OC(CCCC1=CC=CC=C1)C | C32H33NO5S
